US05401621
(1) Synthesis of Sodium 1-acetyl-1-methyl-4-sulfoethylthiosemicarbazide
175.3 g of sodium sulfoethylisothiocyanate was added to a solution obtained by adding 600 ml of methyl alcohol and 300 ml of water to 114.2 g of 1-acetyl-1-methylhydrazine. The system was then heated under reflux for 4 hours. After the reaction, the reaction solution was dried under reduced pressure. The resulting solid matter was then recrystallized from 1 l of methyl alcohol to obtain 169.4 g (yield: 66.0%) of the desired compound. m.p. 255°-256° C.

reactant | sodium sulfoethylisothiocyanate | 175.3 g | S(=O)(=O)(O)CCN=C=S.[Na]
reactant | methyl alcohol | 600 ml | CO | CH4O
reactant | 1-acetyl-1-methylhydrazine | 114.2 g | C(C)(=O)N(N)C | C3H8N2O
solvent | water | 300 ml | O | H2O
product | Sodium 1-acetyl-1-methyl-4-sulfoethylthiosemicarbazide | 169.4 g, yield: 66.0% | C(C)(=O)N(NC(=S)NCCS(=O)(=O)O)C.[Na] | InChI=1S/C6H13N3O4S2.Na/c1-5(10)9(2)8-6(14)7-3-4-15(11,12)13;/h3-4H2,1-2H3,(H2,7,8,14)(H,11,12,13);
